US04929639
To a solution of (2R,4R,5S)-4-aminomethyl-5-[(Z) -6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane (13 mg) in pyridine (0.3 ml) was added benzyl isocyanate (0.02 ml) and the mixture was stirred at room temperature for 60 minutes. Water (0.1 ml) was added and the solvent was evaporated in vacuo to give (2R,4R,5S)-4-(3-benzylureidomethyl)-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane as a residue. The residue was dissolved in methanol (1.5 ml) and added 0.3 ml of 1N aqueous sodium hydroxide and stirred at room temperature for 4 hours. The reaction mixture was evaporated in vacuo and the residue was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The organic layers were combined and dried over anhydrous sodium sulfate. The solvent was evaporated to dryness and the crude product was purified with preparative TLC (ethyl acetate as an eluent) to give (2R,4R,5S)-4-(3 -benzylureidomethyl)-5-[(Z)-6-carboxy-2-hexenyl]-2-methyl-1,3-dioxane (20 mg).

reactant | (2R,4R,5S)-4-aminomethyl-5-[(Z) -6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane | 13 mg | NC[C@@H]1O[C@@H](OC[C@@H]1C\C=C/CCCC(=O)OC)C | C14H25NO4
reactant | benzyl isocyanate | 0.02 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | Water | 0.1 ml | O | H2O
solvent | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
product | (2R,4R,5S)-4-(3-benzylureidomethyl)-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane | C(C1=CC=CC=C1)NC(NC[C@@H]1O[C@@H](OC[C@@H]1C\C=C/CCCC(=O)OC)C)=O | C22H32N2O5
